US08461134B2
4-Amino-N-(1-hydroxy-1,3-dihydro-benzo[c][1,2]oxaborol-6-yl)-3-trifluoromethyl-benzenesulfonamide
A suspension of N-(1-hydroxy-1,3-dihydro-benzo[c][1,2]oxaborol-6-yl)-4-nitro-3-trifluoromethyl-benzenesulfonamide (212 mg, 0.53 mmol), 10% Pd/C (50 mg), and abs. EtOH (100 mL) was shaken in a Parr apparatus at rt under an atmosphere of H2 (50 psi) for 2 h. The mixture was filtered through Celite (washing with EtOH) and then a 0.2 μM filter. The filtrate was concentrated in vacuo at 40° C. and the residue was recrystallized (MeCN/H2O) to give the title compound as a white solid; yield 122 mg (62%). mp 178-179° C.; 1H NMR (400 MHz, DMSO-d6) δ (ppm): 9.98 (s, 1H), 9.22 (s, 1H), 7.65-7.64 (m, 1H), 7.54-7.51 (m, 1H), 7.48-7.47 (m, 1H), 7.28-7.26 (m, 1H), 7.16-7.14 (m, 1H), 6.82-6.79 (m, 1H), 6.49 (s, 2H), 4.88 (s, 2H); 19F NMR (376 MHz, DMSO-d6) δ (ppm): −63.0 (s); MS (ESI) m/z=371 (M−1, negative); HPLC purity: 98.02% (MaxPlot 200-400 nm), 98.34% (220 nm).

reactant | N-(1-hydroxy-1,3-dihydro-benzo[c][1,2]oxaborol-6-yl)-4-nitro-3-trifluoromethyl-benzenesulfonamide | 0.53 mmol, 212 mg | OB1OCC2=C1C=C(C=C2)NS(=O)(=O)C2=CC(=C(C=C2)[N+](=O)[O-])C(F)(F)F | C14H10BF3N2O6S
catalyst | Pd/C | 50 mg | [Pd] | Pd
solvent | EtOH | 100 mL | CCO | C2H6O
product | 4-Amino-N-(1-hydroxy-1,3-dihydro-benzo[c][1,2]oxaborol-6-yl)-3-trifluoromethyl-benzenesulfonamide | NC1=C(C=C(C=C1)S(=O)(=O)NC=1C=CC2=C(B(OC2)O)C1)C(F)(F)F | C14H12BF3N2O4S
